US08022214B2
To a solution of anthracen-9-yl-methanol (6.58 g, 31.6 mmol) and (cyanomethyl)trimethylphosphonium iodide (19.19 g, 78.96 mmol) in propionitrile (77 mL) was added diisopropylethylamine (DIPEA, 49.4 mL, 94.74 mmol) and the mixture was stirred at 97° C. for 20 hours. Water (3.82 mL) was added, nitrogen was bubbled though the mixture, and the mixture was stirred for 20 hours. Water (480 mL) and concentrated HCl (19 mL) were added and the mixture was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated. The resulting solid was purified by silica gel column chromatography (hexane:CHCl3=1:1) to give 3-anthracen-9-yl-propionitrile as brown crystals (6.93 g, 95% yield). 1H NMR (CDCl3) δ 8.43 (1H, s), 8.19 (2H, d), 8.05 (2H, d), 7.60 (2H, dd), 7.51 (2H, dd), 4.02 (2H, t), 2.79 (2H, t).

reactant | anthracen-9-yl-methanol | 31.6 mmol, 6.58 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | (cyanomethyl)trimethylphosphonium iodide | 78.96 mmol, 19.19 g | [I-].C(#N)C[P+](C)(C)C
reactant | diisopropylethylamine | 94.74 mmol, 49.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | 3.82 mL | O | H2O
solvent | propionitrile | 77 mL | C(CC)#N | C3H5N
product | 3-anthracen-9-yl-propionitrile | 6.93 g, 95% yield | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CCC#N | C17H13N
